US07786155B2
Synthesis in analogy to Example 8 and Example 19 starting from 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one and (2-methoxy-phenyl)-acetyl chloride to yield N-{4-[1-hydroxy-2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-ethyl]-phenyl}-2-(2-methoxy-phenyl)-acetamide. LC/MS at 254 nm; [M+H] 535: Rt=3.003 min.

reactant | 3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one | NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C24H21N3O2
reactant | (2-methoxy-phenyl)-acetyl chloride | COC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO2
product | N-{4-[1-hydroxy-2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-ethyl]-phenyl}-2-(2-methoxy-phenyl)-acetamide | OC(CN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)C1=CC=C(C=C1)NC(CC1=C(C=CC=C1)OC)=O | C33H31N3O4
